US08957069B2
2,2-dimethyl-6-(4-methylphenyl)-2,3-dihydro-1-benzofuran
4-methylphenylboric acid (1.35 g, 9.91 mmol), tetrakis(triphenylphosphine)palladium (382 mg, 0.331 mmol), an aqueous solution of 2N sodium carbonate (4.5 mL) and ethanol (83 mL) were sequentially added to a solution of dimethoxyethane (9 mL) containing 6-bromo-2,2-dimethyl-2,3-dihydro-1-benzofuran (1.50 g, 6.61 mmol) synthesized in Reference Example 7, and the mixture was stirred under microwave irradiation at 150° C. for 10 minutes. After cooled to room temperature, water was added to the reaction solution, and extraction was performed using ethyl acetate. The extract was washed with saturated sodium hydrogencarbonate and saturated saline, and then dried using anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate 99:1 to 93/7) to give 880 mg of the title compound (yield: 56%).

reactant | 4-methylphenylboric acid | 9.91 mmol, 1.35 g | CC1=CC=C(C=C1)OB(O)O | C7H9BO3
reactant | sodium carbonate | 2N, 4.5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 83 mL | C(C)O | C2H6O
reactant | 6-bromo-2,2-dimethyl-2,3-dihydro-1-benzofuran | 6.61 mmol, 1.50 g | BrC1=CC2=C(CC(O2)(C)C)C=C1 | C10H11BrO
catalyst | tetrakis(triphenylphosphine)palladium | 0.331 mmol, 382 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | dimethoxyethane | 9 mL | C(OC)COC | C4H10O2
product | 2,2-dimethyl-6-(4-methylphenyl)-2,3-dihydro-1-benzofuran | 880 mg, yield: 56% | CC1(OC2=C(C1)C=CC(=C2)C2=CC=C(C=C2)C)C | C17H18O
